US07825265B2
2-(2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-3-methyl-butyric acid 4-(1-phenyl-cyclohexyl)-phenyl ester
To a stirred mixture at room temperature of PS-carbodiimide (1.2 g; 1.32 mmol) and 4-(cyclohexyl-phenyl)methyl-hydroxybenzene (152 mg, 0.60 mmol) in dry THF (2 mL) was added BocValValOH (285 mg, 0.90 mmol) dissolved in THF (2 mL). After 5 min, DMAP (81 mg; 0.66 mmol) was added and stirring was continued for 47 h. The reaction mixture was filtered and concentrated in vacuo and purified by CC using EtOAc (0-25%) in heptane affording 297 mg (0.54 mmol; 90%) of colourless oil. LCMS purity (UV/MS): 89/100%, Rt 7.61min, M+1: 551.53.

reactant | carbodiimide | 1.32 mmol, 1.2 g | N=C=N | CH2N2
reactant | 4-(cyclohexyl-phenyl)methyl-hydroxybenzene | 0.60 mmol, 152 mg | C1(CCCCC1)C1=C(C=CC=C1)CC1=CC=C(C=C1)O | C19H22O
reactant | BocValValOH | 0.90 mmol, 285 mg | N([C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C15H28N2O5
reactant | heptane | 0.54 mmol, 297 mg | CCCCCCC | C7H16
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.66 mmol, 81 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-3-methyl-butyric acid 4-(1-phenyl-cyclohexyl)-phenyl ester | C1(=CC=CC=C1)C1(CCCCC1)C1=CC=C(C=C1)OC(C(C(C)C)NC(C(C(C)C)NC(=O)OC(C)(C)C)=O)=O | C33H46N2O5
